US08957074B2
To a yellow solution of 5-bromo-2-chloro-N-cycloheptylpyrimidin-4-amine (18.1 g, 55.5 mmol) in THF (200 mL) were added propargyl alcohol (4.5 mL, 1.4 equiv) and a solution of tetrabutylammonium fluoride in THF (1M, 130 mL, 2.3 equiv) and the resulting brown mixture was treated with a stream of nitrogen for 15 min (bubble in the solution). The mixture was then treated with bis(triphenylphosphine)palladium(II) chloride (2.09 g, 0.054 equiv) and heated to reflux for 5 h. After cooling, the reaction mixture was filtered through a pad of celite (rinsed with EtOAc ˜350 mL). The filtrate was concentrated to remove THF, further diluted with EtOAc (total volume 250 mL), washed with sat. NaHCO3 (2×150 mL) and water (150 mL), dried over Na2SO4, filtered and concentrated. Titration of the residue in acetone and CH2Cl2 provided 3-(2-chloro-4-(cycloheptylamino)pyrimidin-5-yl)prop-2-yn-1-ol (8.65 g) in 56% yield. 1H NMR (400 MHz, CD3OD) δ 7.98 (s, 1H), 4.45 (s, 2H), 4.19 (septet, J=4.5 Hz, 1H), 1.95 (m, 2H), 1.77-1.52 (m, 10Hz); MS m/z 280.4 (M+H)+

reactant | 5-bromo-2-chloro-N-cycloheptylpyrimidin-4-amine | 55.5 mmol, 18.1 g | BrC=1C(=NC(=NC1)Cl)NC1CCCCCC1 | C11H15BrClN3
reactant | propargyl alcohol | 4.5 mL, 1.4 equiv | C(C#C)O | C3H4O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 200 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.09 g, 0.054 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | THF | 1M, 130 mL, 2.3 equiv | C1CCOC1 | C4H8O
product | 3-(2-chloro-4-(cycloheptylamino)pyrimidin-5-yl)prop-2-yn-1-ol | 8.65 g, 56% yield | ClC1=NC=C(C(=N1)NC1CCCCCC1)C#CCO | C14H18ClN3O
